### PR TITLE
feat(CategoryTheory/Sites): locally connected sites

### PR DESCRIPTION
**Pull request by peabrainiac**
A locally connected site is a site in which each covering sieve is connected when viewed as a full subcategory of the corresponding over category. We define locally connected sites, construct a functor `π₀` on them that is left adjoint to the constant sheaf functor, and prove that under certain conditions this functor preserves the terminal object or even all finite products.

---

cc @chrisflav since we talked about this
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Limits/Types/Colimits.lean [hunk 1]
```diff
@@ -249,4 +249,16 @@ theorem nonempty_of_nonempty_colimit {F : J ⥤ Type u} [HasColimit F] :
     Nonempty (colimit F) → Nonempty J :=
   Nonempty.map <| Sigma.fst ∘ Quot.out ∘ (colimitEquivColimitType F).toFun
 
+/-- The colimit of any representable functor is a singleton type. -/
+@[implicit_reducible]
+noncomputable def uniqueColimitOfIsRepresentable (F : Jᵒᵖ ⥤ Type max u' v) [F.IsRepresentable] :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Types/Colimits.lean]: Is it not possible to prove this for `CoconeTypes.IsColimit` without universe restrictions first?

**Comment by peabrainiac** [comment]
Thanks for the review! I've made `uniqueColimitOfIsRepresentable` fully universe polymorphic now, and also fixed an incorrect TODO in the docstring - I previously read that the sheaf topos of a topological space is locally connected iff the space is and misinterpreted that to mean that the site of opens is locally connected iff the space is too, but as it turns out it never is because the empty set is not connected. Apparently what is actually going on is that the site of connected opens is always locally connected and is a dense sub-site iff the space is locally connected, so that the sheaf topos of locally connected spaces can always be represented by a locally connected site even though its site of opens is not.

File: Mathlib/CategoryTheory/Limits/Types/Colimits.lean [hunk 2]
```diff
@@ -249,4 +249,24 @@ theorem nonempty_of_nonempty_colimit {F : J ⥤ Type u} [HasColimit F] :
     Nonempty (colimit F) → Nonempty J :=
   Nonempty.map <| Sigma.fst ∘ Quot.out ∘ (colimitEquivColimitType F).toFun
 
+/-- Any colimit of a representable functor is a singleton type. -/
+@[implicit_reducible]
+noncomputable def uniqueOfIsColimitOfIsRepresentable {F : Jᵒᵖ ⥤ Type u'} [F.IsRepresentable]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Limits/Types/Colimits.lean:254]: I was actually suggesting this:
```lean
@[implicit_reducible]
def _root_.CategoryTheory.Functor.RepresentableBy.uniquePtOfCoconeTypesIsColimit
    {J : Type*} [Category* J]
    {F : Jᵒᵖ ⥤ Type w₀} {X : J} (hF : F.RepresentableBy X)
    {c : CoconeTypes.{w₁} F} (hc : c.IsColimit) :
    Unique c.pt where
  default := c.ι ⟨X⟩ (hF.homEquiv (𝟙 X))
  uniq x := by
    obtain ⟨⟨Y⟩, y, rfl⟩ := hc.ι_jointly_surjective x
    obtain ⟨f, rfl⟩ := hF.homEquiv.surjective y
    rw [← c.ι_naturality_apply f.op]
    congr
    simpa using hF.homEquiv_comp f (𝟙 X)
```
